Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___ - Laparoscopic Cholecystectomy

 
History of Present Illness:
___ h/o CAD s/p ___ RUQ pain x18 hours and nausea. 
Pain is dull, ___ and not remitting. Pain is improved here in 
the ER with morphine but he still has discomfort. Pt states that 
he had a similar episode about a moth ago that resolved within 
an hour. He is otherwise healthy. Denies fevers chills, night 
sweats, unexplained weightloss, fatigue/malaise/lethargy, 
changes in appetite and jaundice. 

 
Past Medical History:
NSTEMI s/p DES x2 in ___, Echo ___ EF 55% 
 
Social History:
___
Family History:
None contributory 

 
Physical Exam:
Admission exam:
Physical Exam:
Vitals:96.4 70 ___ 96ra 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Sot, RUQ tenderness, no murphys sign, reducible umbilical
hernia, no scars. 
Ext: No ___ edema, ___ warm and well perfused

Discharge exam:
Vital signs:
Temp: 97.9 PO 
BP: 133/79 
HR: 57 
RR: 18 ___
O2 sat: 95% Ra 

General: Awake, alert, and oriented, no acute distress, pleasant
conversation
HEENT: No scleral icterus, mucous membranes moist
Cardio: Regular rate and rhythm
Pulmonary: Clear to auscultation bilaterally, no increased work
of breathing
Abdomen: surgical dressings are clean, dry, and intact, the
abdomen is soft, there is appropriate ___ 
tenderness.
There is also tenderness to deep palpation of the RUQ between
incision sites. 
Extremities: Warm and well-perfused
 
Pertinent Results:
LABS:
___ 04:40AM BLOOD WBC-9.1 RBC-4.93 Hgb-14.7 Hct-44.1 MCV-90 
MCH-29.8 MCHC-33.3 RDW-13.4 RDWSD-43.4 Plt ___ Neuts-71.9* 
___ Monos-5.1 Eos-1.3 Baso-0.4 Im ___ AbsNeut-6.51* 
AbsLymp-1.90 AbsMono-0.46 AbsEos-0.12 AbsBaso-0.04 Glucose-159* 
UreaN-30* Creat-1.2 Na-143 K-4.3 Cl-103 HCO3-25 AnGap-15 ALT-35 
AST-27 AlkPhos-108 TotBili-1.4 Albumin-4.7
05:00AM BLOOD Lactate-2.1*

___ 06:14AM BLOOD WBC-9.7 RBC-4.42* Hgb-12.8* Hct-39.2* 
MCV-89 MCH-29.0 MCHC-32.7 RDW-13.8 RDWSD-44.6 Plt ___ 
Glucose-109* UreaN-19 Creat-1.2 Na-141 K-4.3 Cl-104 HCO3-25 
AnGap-12 ALT-22 AST-15 AlkPhos-73 TotBili-2.4* Calcium-8.5 
Phos-2.7 Mg-1.7

IMAGING:
___ LIVER OR GALLBLADDER US (SINGLE ORGAN):
1.  Echogenic liver consistent with steatosis. Other forms of 
liver disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis cannot be excluded on the basis of this examination. 
2.  Layering gallstone and biliary sludge within the gallbladder 
without 
evidence of acute cholecystitis. 

___ CT ABD & PELVIS WITH CONTRAST:
Cholelithiasis at the gallbladder neck and at the cystic duct, 
and layering gallbladder stones with mild pericholecystic fluid, 
although without distension, are concerning for early acute 
obstructive cholecystitis. 

 
Brief Hospital Course:
The patient presented to Emergency Department on ___ 
with ___ abdominal pain and nausea.  Upon arrival to 
ED, the patient underwent an abdominal ultrasound and CT scan 
which was suggestive of early acute cholecystitis.   Given 
findings, the patient was admitted to the hospital and taken to 
the operating room on HD2 where he underwent a laparoscopic 
cholecystectomy. There were no adverse events in the operating 
room; please see the operative note for details.  Pt was 
extubated, taken to the PACU until stable, then transferred to 
the ward for observation. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was well-managed with oral pain 
medications. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The patient was kept NPO the night before his 
procedure. After the operating room, he was switched to a 
regular diet without issue. Because of his rising tBilirubin 
(2.4) early on the morning of his cholecystectomy, he was made 
NPO at midnight in the event that his bilirubin continued to 
trend up, concerning for a common bile duct stone that would 
warrant ERCP. On POD1, his tBili was found to drop to 1.7. 
Therefore, it was determined that he would not need an ERCP, his 
regular diet was restarted, and he was able to tolerate it 
without concern. 

ID: The patient's temperature curves were closely watched for 
signs of infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating his 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled.  The patient received discharge teaching 
and follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atenolol 25 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*18 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atenolol 25 mg PO DAILY  
4.  Atorvastatin 40 mg PO DAILY  
5.  mometasone 0.1 % topical BID  
6.  Omega-3 (omega 3-dha-epa-fish oil) ___ mg oral DAILY  
7.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute cholecystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital 
after undergoing removal of your gallbladder because of your 
episode of acute cholecystitis. You have recovered from surgery 
and are now ready to be discharged to home. Please follow the 
recommendations below to ensure a speedy and uneventful 
recovery. 
 
ACTIVITY:
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
- You may climb stairs. 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
- Don't lift more than 10 lbs for 6 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.
- You may start some light exercise when you feel comfortable.
- You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
- You may resume sexual activity unless your doctor has told you 
otherwise.
 
HOW YOU MAY FEEL: 
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
- You may have a sore throat because of a tube that was in your 
throat during surgery.
- You might have trouble concentrating or difficulty sleeping. 
You might feel somewhat depressed.
- You could have a poor appetite for a while. Food may seem 
unappealing.
- All of these feelings and reactions are normal and should go 
away in a short time. If they do not, tell your surgeon.
 
YOUR INCISION:
- Your incision may be slightly red around the edges. This is 
normal.
- If you have steri strips, do not remove them for 2 weeks. 
(These are the thin paper strips that are on your incision.) But 
if they fall off before that that's okay).
- You may gently wash away dried material around your incision.
- It is normal to feel a firm ridge along the incision. This 
will go away.
- Avoid direct sun exposure to the incision area.
- Do not use any ointments on the incision unless you were told 
otherwise.
- You may see a small amount of clear or light red fluid 
staining your dressing or clothes. If the staining is severe, 
please call your surgeon.
- You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
- Over the next ___ months, your incision will fade and become 
less prominent.
 
YOUR BOWELS:
- Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.
- After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluids and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.
 
PAIN MANAGEMENT:
- It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
-You will receive a prescription from your surgeon for pain 
medicine to take by mouth. It is important to take this medicine 
as directed. 
- Do not take it more frequently than prescribed. Do not take 
more medicine at one time than prescribed.
- Your pain medicine will work better if you take it before your 
pain gets too severe.
- Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
- If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
- Remember to use your "cough pillow" for splinting when you 
cough or when you are doing your deep breathing exercises.
If you experience any of the following, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon.
 

 
Followup Instructions:
___